US05212164
C. (E)-3,7,11-Trimethyl-6,10-dodecadien-1-ol
To a stirred solution of 983 mg (4.44 mmol) of Part B aldehyde in 20 mL of diethyl ether at -78° C. under argon was added 4.4 mL (6.66 mmol) of 1.5M diisobutylaluminum hydride in toluene dropwise over 5 minutes. After 1.5 hours at -78° C., the cold bath was removed and the reaction was allowed to warm to 0° C. After 15 minutes at 0° C. the reaction was quenched by the addition of 1.4 mL (34.6 mmol) of methanol. The reaction was diluted with 300 mL of diethyl ether and washed with 10% HCl solution followed by water, saturated sodium bicarbonate, brine, and dried over MgSO4. The solvent was evaporated to provide 1.03 g of crude product. Flash chromatography was performed on 105 g of silica gel packed and loaded with 10:1 hexane/EtOAc and eluted with 5:1 hexane/EtOAc collecting 30 mL fractions. Fractions 28 to 45 were combined and evaporated to provide 950 mg (96%) of title compound in the form of a colorless oil.

reactant | diisobutylaluminum hydride | 6.66 mmol, 1.5M, 4.4 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 34.6 mmol, 1.4 mL | CO | CH4O
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-3,7,11-Trimethyl-6,10-dodecadien-1-ol | 950 mg, 96% | CC(CCO)CC\C=C(\CCC=C(C)C)/C | C15H28O
